US07015218B1
By the reaction and treatment in the same manner as in Starting Material Synthesis Example 1 using phenelzine (15 g) and ethyl 2-ethoxymethyleneacetoacetate (12 g), the residue was recrystallized from a mixed solvent of ethyl acetate-diisopropyl ether to give 3-methyl-1-phenethylpyrazole-4-carboxylic acid (5.5 g).

reactant | phenelzine | 15 g | C=1C=CC(=CC1)CCNN | C8H12N2
reactant | ethyl 2-ethoxymethyleneacetoacetate | 12 g | C(C)OC=C(C(=O)OCC)C(=O)C | C9H14O4
product | 3-methyl-1-phenethylpyrazole-4-carboxylic acid | 5.5 g | CC1=NN(C=C1C(=O)O)CCC1=CC=CC=C1 | C13H14N2O2
